US07812160B2
A mixture of 2-(4-nitrophenyl)ethanimidamide hydrochloride (0.22 g, 1.0 mmol), dimethyl acetyl-succinate (0.19 g, 1.0 mmol), and sodium methoxide (0.07 g, 1.3 mmol) in MeOH (10 mL) was refluxed for 15 hours. After cooling to room temperature, the separated solids were collected by suction and added to a pre-formed solution of thionyl chloride (0.65 mL, 8.9 mmol) in MeOH (7.5 mL). The resulting mixture was refluxed for 16 hours and then cooled to room temperature. Acetone was added and the precipitated solids were collected by suction, rinsed with acetone and dried under high vacuum for 4 hours to give methyl [4-hydroxy-6-methyl-2-(4-nitrobenzyl)-pyrimidin-5-yl]acetate (0.12 g, 38% yield) as a white solid.

reactant | 2-(4-nitrophenyl)ethanimidamide hydrochloride | 1.0 mmol, 0.22 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)CC(N)=N
reactant | dimethyl acetyl-succinate | 1.0 mmol, 0.19 g | C(C)(=O)C(C(=O)OC)CC(=O)OC | C8H12O5
reactant | sodium methoxide | 1.3 mmol, 0.07 g | C[O-].[Na+]
reactant | thionyl chloride | 8.9 mmol, 0.65 mL | S(=O)(Cl)Cl | Cl2OS
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 7.5 mL | CO | CH4O
solvent | Acetone | CC(=O)C | C3H6O
product | methyl [4-hydroxy-6-methyl-2-(4-nitrobenzyl)-pyrimidin-5-yl]acetate | 0.12 g, 38% yield | OC1=NC(=NC(=C1CC(=O)OC)C)CC1=CC=C(C=C1)[N+](=O)[O-] | C15H15N3O5
